US06906053B2
4-Bromo-2-methylquinoline, 209a (1.0 g, 4.5 mmol) was dissolved in 10 mL of anhydrous THF and the resulting solution was cooled down to −78° C. A solution of n-BuLi (3.0 mL, 1.6M, 4.8 mmol) was added slowly and the resulting solution was maintained at −78° C. for 5 min. Meanwhile, in another flask methyl 4-formylbenzoate (0.9 g, 5.4 mmol) was dissolved in 20 mL of anhydrous THF and the resulting solution was cooled to −78° C. before the lithium reagent made above was cannulated. The whole mixture was stirred for 30 min before quenched with MeOH. The solution was then diluted with ethyl acetate and washed with H2O and brine. After dried over MgSO4, the organic solution was filtered and concentrated. The residue was purified on silica gel to provide methyl 4-[hydroxy(2-methyl-4-quinolinyl)methyl]benzoate (0.9 g, 65%). MS (AP+): 308 (M+1).

reactant | 4-Bromo-2-methylquinoline | BrC1=CC(=NC2=CC=CC=C12)C | C10H8BrN
reactant | n-BuLi | 4.8 mmol, 1.6M, 3.0 mL | [Li]CCCC
reactant | methyl 4-formylbenzoate | 5.4 mmol, 0.9 g | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | lithium | [Li] | Li
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | methyl 4-[hydroxy(2-methyl-4-quinolinyl)methyl]benzoate | 0.9 g, 65% | OC(C1=CC=C(C(=O)OC)C=C1)C1=CC(=NC2=CC=CC=C12)C | C19H17NO3
